US05420129
By reacting 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-(2-hydroxy-ethoxy-methyl)-pyrimidin-4-yl]-benzenesulphonamide with 3-furancarboxylic acid there was obtained furan-3-carboxylic acid 2-[6-(4-tert-butyl-phenylsulfonylamino)-5-(2-chloro-5-methoxy-phenoxy)-pyrimidin-4-ylmethoxy]-ethylester. MS: (M+H)+=618.

reactant | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-(2-hydroxy-ethoxy-methyl)-pyrimidin-4-yl]-benzenesulphonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC(=C1)OC)Cl)COCCO | C24H28ClN3O6S
reactant | 3-furancarboxylic acid | O1C=C(C=C1)C(=O)O | C5H4O3
product | furan-3-carboxylic acid 2-[6-(4-tert-butyl-phenylsulfonylamino)-5-(2-chloro-5-methoxy-phenoxy)-pyrimidin-4-ylmethoxy]-ethylester | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)COCCOC(=O)C1=COC=C1)OC1=C(C=CC(=C1)OC)Cl | C29H30ClN3O8S
